US04329353
To a stirred sodium methoxide solution, previously prepared starting from 1.3 parts of sodium in 160 parts of methanol, are added 13 parts of 1-(4-fluorophenyl)-4-oxocyclohexanecarboxylic acid and the whole is stirred and refluxed for 1 hour. After cooling to room temperature, 22.8 parts of iodomethane are added dropwise. Upon completion, the whole is heated to reflux and stirring is continued overnight at reflux temperature. The reaction mixture is evaporated and the residue is taken up in trichloromethane. The organic phase is washed successively with water, a 5% sodium hydroxide solution and again with water, dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using trichloromethane as eluent. The pure fractions are collected and the eluent is evaporated, yielding 5 parts (36%) of methyl 1-(4-fluorophenyl)-4-oxocyclohexanecarboxylate as an oily residue.

reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | [Na] | Na
reactant | 1-(4-fluorophenyl)-4-oxocyclohexanecarboxylic acid | FC1=CC=C(C=C1)C1(CCC(CC1)=O)C(=O)O | C13H13FO3
reactant | iodomethane | IC | CH3I
solvent | methanol | CO | CH4O
product | methyl 1-(4-fluorophenyl)-4-oxocyclohexanecarboxylate | 36% | FC1=CC=C(C=C1)C1(CCC(CC1)=O)C(=O)OC | C14H15FO3
